US07253198B2
3-tert-Butoxycarbonylamino-5-methylsulfanyl-benzoic acid methyl ester (D60) (0.54 g, 1.82 mmol, 1 equiv) was dissolved in dioxan (2 ml) and 4M HCl in dioxan (16 mmol, 4 ml, 8.8 equiv) was added. The solution was stirred at room temperature for 2 h allowing the hydrochloride salt of the amine to precipitate. This precipitate was filtered off, washed with Et2O and dried giving 3-amino-5-methylsulfanyl-benzoic acid methyl ester hydrochloride (D62) (0.224 g, 52%). [M+H]+=198.1, RT=2.68 min

reactant | 3-tert-Butoxycarbonylamino-5-methylsulfanyl-benzoic acid methyl ester | 1.82 mmol, 0.54 g, 1 equiv | COC(C1=CC(=CC(=C1)SC)NC(=O)OC(C)(C)C)=O | C14H19NO4S
reactant | HCl | 4M | Cl | ClH
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 16 mmol, 4 ml, 8.8 equiv | O1CCOCC1 | C4H8O2
product | 3-amino-5-methylsulfanyl-benzoic acid methyl ester hydrochloride | 0.224 g, 52% | Cl.COC(C1=CC(=CC(=C1)SC)N)=O | InChI=1S/C9H11NO2S.ClH/c1-12-9(11)6-3-7(10)5-8(4-6)13-2;/h3-5H,10H2,1-2H3;1H
